US06727238B2
2-(4-Bromophenyl)-1,3-oxazole (Step 2)
4-Bromo-N-(2,2-diethoxyethyl)benzamide was dissolved in concentrated sulfuric acid at 0° C. To phosphorus pentoxide (5.2 g, 18.3 mmol) was added the sulfuric acid solution, and the mixture was heated at 180° C. for 30 minutes. The reaction mixture was cooled down to room temperature, and poured into ice. The whole was made basic by addition of NaHCO3 and amnmonia aqueous solution. The whole was extracted with ethyl acetate. The organic layer was washed with brine, dried over MgSO4, and concentrated in vacuo to give title compound (1.23 g, 70% yield).

reactant | 4-Bromo-N-(2,2-diethoxyethyl)benzamide | BrC1=CC=C(C(=O)NCC(OCC)OCC)C=C1 | C13H18BrNO3
reactant | phosphorus pentoxide | 18.3 mmol, 5.2 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 2-(4-Bromophenyl)-1,3-oxazole | 1.23 g, 70% yield | BrC1=CC=C(C=C1)C=1OC=CN1 | C9H6BrNO
